US08895582B2
(S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-5-(dimethoxyphosphoryloxy)pentyl isoquinolin-3-ylcarbamate (531 mg, 0.91 mmol) in acetonitrile (18 mL) was added TMSI (0.50 mL, 3.66 mmol) at 0° C. After stirred at RT for 10 min, the reaction was quenched with MeOH. The solvent was removed and the resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O (0.1% HCOOH buffer) to give (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-5-(phosphonooxy)pentyl isoquinolin-3-ylcarbamate (261 mg, 52%). LRMS (M+H+) m/z 553.5.

reactant | (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-5-(dimethoxyphosphoryloxy)pentyl isoquinolin-3-ylcarbamate | 0.91 mmol, 531 mg | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CCCOP(=O)(OC)OC)N(C(=O)NCC1=C(C(=CC=C1)F)F)C)=O | C26H31F2N4O7P
reactant | TMSI | 3.66 mmol, 0.50 mL | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-5-(phosphonooxy)pentyl isoquinolin-3-ylcarbamate | 261 mg, 52% | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CCCOP(=O)(O)O)N(C(=O)NCC1=C(C(=CC=C1)F)F)C)=O | C24H27F2N4O7P
